US06462069B2
[5-(N-BOC-indol-3-yl)-1H-pyrazol-3-yl]-phenyl-amine (332 mg, 0.89 mmol) was stirred in 50% TFA/CH2C12 (8 mL) at r.t. for 1 h, at which point material had precipitated to a solid block. Solvents were removed in vacuo, and the solid was dissolved in EtOAc (50 mL), washed with saturated NaHCO3 (25 mL) and brine (25 mL), dried (MgSO4) and concentrated in vacIto. Purification by silica gel chromatography (50% to 70% EtOAc/hexanes) gave 182 mg (75%) of [5-(1H-indol-3-yl)-1H-pyrazol-3-yl]-phenyl-amine as a white solid. 1H NMR (300 MHz, DMSO-d6) δ12.06 (s, 1H), 11.41 (s, 1H), 8.38 (s, 1H), 7.80 (d, 1H, J=6.3 Hz), 7.74 (d, 1H, J=2.7 Hz), 7.36-7.47 (m, 3H), 7.11-7.21 (m, 4H), 6.70 (t, 1H, J=7.2 Hz), 6.14 (s, 1H). Anal. (C17H14N4.0.05 H2O) C, H, N. Calculated C=74.19; H=5.16; N=20.36; found C=74.25; H=5.17; N=20.24.

reactant | [5-(N-BOC-indol-3-yl)-1H-pyrazol-3-yl]-phenyl-amine | 0.89 mmol, 332 mg | C(=O)(OC(C)(C)C)N1C=C(C2=CC=CC=C12)C1=CC(=NN1)NC1=CC=CC=C1 | C22H22N4O2
solvent | TFA | C(=O)(C(F)(F)F)O | C2HF3O2
product | [5-(1H-indol-3-yl)-1H-pyrazol-3-yl]-phenyl-amine | 182 mg, 75% | N1C=C(C2=CC=CC=C12)C1=CC(=NN1)NC1=CC=CC=C1 | C17H14N4
